US04892881
1-{[4-(2,3-Dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}-2-hydroxy-2-methyl-3-(1,2,4-triazol-1-yl)propane
A mixture of 2-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxymethyl}-2-methyloxirane (0.80 g), 1,2,4-triazole sodium salt (0.60 g) and "18-Crown-6" (20 mg) in tetrahydrofuran (25 ml) was stirred at room temperature for two days and then partitioned between ethyl acetate and water. The layers were separated and the organic layer was washed with water, dried over Na2SO4 and evaporated. The residue was purified by chromatography on SiO2 (12 g) using toluene plus 0-100% ethyl acetate as the eluant. Appropriate fractions were combined and evaporated and the residue was triturated with ether. The resulting solid was collected, washed with ether and dried to give the title compound (0.49 g), m.p. 149°-160° C.

reactant | 2-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxymethyl}-2-methyloxirane | 0.80 g | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCC1(OC1)C)C(=O)OCC | C22H25Cl2NO6
reactant | 1,2,4-triazole sodium salt | 0.60 g | [Na].N1N=CN=C1
reactant | 18-Crown-6 | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 1-{[4-(2,3-Dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}-2-hydroxy-2-methyl-3-(1,2,4-triazol-1-yl)propane | 0.49 g | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCC(CN1N=CN=C1)(C)O)C(=O)OCC | C24H28Cl2N4O6
